US05891909
a) 5-Methyl-3-(2-trifluoromethylbenzyloxy)phenol
Orcinol monohydrate (4.30 g, 30 mmol) in N,N-dimethylformarnide (20 mL) was added to a suspension of sodium hydride (1.5 g, 60 mmol) in N,N-dimethylformamide (30 mL), and the mixture was stirred at ambient temperature for 30 minutes. To the above solution was slowly added 2-trifluoromethylbenzyl chloride (5.0 g,25 mmol) in N,N-dimethylformamide (10 mL). The mixture was stirred at ambient temperature for 3 hours. After carefully quenching with water (100 mL), the mixture was extracted with ethyl acetate (3×100 mL). The ethyl acetate solution was washed with brine (2×100 mL) and dried over Na2SO4. After evaporating the solvent in vacuo, the residue was purified by flash column chromatography (3:1 hexane/ethyl acetate) to give the title compound as a white solid (2.9 g, 41%). 1H-NMR (300 MHz, CDCl3) δ 7.72 (d, J=7.8 Hz, 1 H), 7.68 (d, J=7.9Hz, 1 H), 7.56 (t, J=7.7 Hz, 1 H), 7.41 (t, J=7.7 Hz, 1 H), 6.39 (s, 1 H), 6.28 (s, 2 H), 5.22 (s, 2 H), 4.79 (s, 1 H), 2.27 (s, 3 H).

reactant | Orcinol monohydrate | 30 mmol, 4.30 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | sodium hydride | 60 mmol, 1.5 g | [H-].[Na+]
reactant | 2-trifluoromethylbenzyl chloride | 25 mmol, 5.0 g | FC(C1=C(CCl)C=CC=C1)(F)F | C8H6ClF3
solvent | N,N-dimethylformarnide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Methyl-3-(2-trifluoromethylbenzyloxy)phenol | 2.9 g, 41% | CC=1C=C(C=C(C1)O)OCC1=C(C=CC=C1)C(F)(F)F | C15H13F3O2
